Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
Nausea/vomiting, failure to thrive
 
Major Surgical or Invasive Procedure:
___ percutaneous cholecystostomy tube placement

 
History of Present Illness:
___ w/h/o MI, PVD, mesenteric ischemia s/p SMA bypass, most
recently s/p exlap and SMA thrombectomy POD20, returns to ER
tonight with N/V. No f/c/ns. She states the vomiting started 
last
night.  She has had some minimal associated discomfort but no
real abdominal pain.  No hematochezia/melena.  No hematemesis.

 
Past Medical History:
PMH: mesenteric ischemia; MI early ___, s/p cardiac cath, no 
intervention

PSH: SMA thrombectomy ___, Aorto-common hepatic/SMA bypass 
w/ dacron graft ___, ___ stenting ___, Ex-lap 
and SBR ___, take back for bleeding ___, SMA stenting 
___, ___ stenting ___, hysterectomy ___
 
Social History:
___
Family History:
Brother and mother with DM. 
 
Physical Exam:
Vitals: 98.8 85 107/65 20 98%RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: unlabored
ABD: Soft, nondistended, mild TTP in RUQ around drain, no 
rebound or
guarding, normoactive bowel sounds, no palpable masses, midline
incision healing well
Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
___ 07:53PM BLOOD WBC-7.4 RBC-3.39* Hgb-10.2* Hct-31.4* 
MCV-93 MCH-30.1 MCHC-32.4 RDW-15.0 Plt ___
___ 04:05AM BLOOD WBC-5.4 RBC-2.29* Hgb-6.9* Hct-21.3* 
MCV-93 MCH-30.3 MCHC-32.5 RDW-15.0 Plt ___
___ 07:35AM BLOOD WBC-6.0 RBC-2.85* Hgb-8.7* Hct-27.5* 
MCV-97 MCH-30.5 MCHC-31.6 RDW-15.7* Plt ___
___ 08:29PM BLOOD ___ PTT-50.2* ___
___ 12:00AM BLOOD ___ PTT-51.1* ___
___ 08:10AM BLOOD ___ PTT-29.9 ___
___ 03:28AM BLOOD ___
___ 06:25AM BLOOD ___
___ 07:35AM BLOOD ___ PTT-34.4 ___
___ 07:53PM BLOOD Glucose-161* UreaN-39* Creat-1.3* Na-139 
K-4.1 Cl-100 HCO3-24 AnGap-19
___ 07:35AM BLOOD Glucose-95 UreaN-7 Creat-0.4 Na-140 K-4.1 
Cl-104 HCO3-27 AnGap-13
___ 02:50AM BLOOD ALT-12 AST-12 AlkPhos-92 TotBili-0.4
___ 08:10AM BLOOD ALT-14 AST-15 AlkPhos-95 TotBili-0.4
___ 07:35AM BLOOD Calcium-7.6* Phos-4.3 Mg-1.6
___ 08:01PM BLOOD Lactate-2.4*
___ 12:03AM BLOOD Lactate-0.8
___ 07:35AM BLOOD PREALBUMIN-PND
 
Brief Hospital Course:
On admission, pt was hydrated and followed with serial labs and 
exams. A CTA revealed that her aorto-CHA/SMA bypass was open. 
She received 3 units of pRBCs and 1 unit of FFP. Her lactate 
normalized and her N/V improved. She did have melenic stool and 
was thus started on a PPI. The following day, pt vomited 200cc 
of coffee ground emesis. She was given 2 units of pRBCs and 1 
unit of FFP. On HD3, pt again had melenic stools. Her Foley 
catheter was d/c'd. She was started on Ensure supplements. On 
HD4, d/t persistent inability to tolerate po intake, a Dobhoff 
was placed and tube feeds started. On HD5, reglan was started 
for high TF residuals. On HD6, pt had one episode of emesis. On 
HD7, pt's nausea and pain improved. She was given 2 units of 
pRBCs. On HD8, pt was tolerating TFs at goal. On HD9, TFs were 
decreased due to a high residual. A CT scan was done to look for 
a mechanical reason for perisistent nausea and abdominal pain 
and demonstrated findings concerning for cholecystitis. On HD10, 
after an ultrasound also demonstrated findings consistent with 
cholecystitis, pt had a HIDA scan with nonfilling of the 
gallbladder. On HD11, a percutaneous cholecystostomy tube was 
placed and pt was started on Unasyn. Bile was sent for culture 
and subsequently grew Klebsiella pneumoniae. After placement of 
the perc chole, TFs were resumed. On HD12, pt again was able to 
tolerate TFs at goal. On HD13, TFs were cycled. On HD14, unasyn 
was switched to augmentin. On HD15, TFs were halved in an 
attempt to increase pt's appetite and po intake. 
 
Medications on Admission:
Simvastatin 20mg daily
Aspirin 81mg daily
Coumadin

 
Discharge Medications:
1. Amoxicillin-Clavulanic Acid ___ mg PO Q8H 
Stop ___  
2. Aspirin EC 81 mg PO DAILY 
Should be enteric coated aspirin 
3. Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
4. Calcium Carbonate Suspension 1250 mg PO TID 
5. Hydrocodone-Acetaminophen (5mg-500mg) ___ TAB PO Q6H:PRN pain 

6. Magnesium Oxide 400 mg PO BID 
7. Metoclopramide 10 mg PO QIDACHS 
8. Neutra-Phos 2 PKT PO TID 
9. Pantoprazole 40 mg PO Q24H 
10. Simvastatin 20 mg PO DAILY 
11. Warfarin 0.5 mg PO DAILY16 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Failure to thrive
Supratherapeutic INR
Sub-acute/Chronic cholecystitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
-Please call or go to the emergency room if fever greater than 
101.0, if increased redness or discharge from around drain site, 
if numbness/weaknessm if short of breath, if you notice leg 
swelling, if increased pain uncontrolled by pain medications, or 
for any other concerning symptoms. 
-Please do not immerse in bath, swimming, or sauna while 
gallbladder drain is in place. ___ shower; Do not scrub drain 
site; let soapy water run over it and pat down gently after 
shower.
-Do not drive or consume alcohol while taking narcotics. 
-Please follow up with your primary care provider concerning 
hospitalization.  
 
Followup Instructions:
___